Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
levofloxacin / apple / olive oil
 
Attending: ___.
 
Chief Complaint:
N/V, abdominal bloating, ?___ 
 
Major Surgical or Invasive Procedure:
Abdominal paracentesis 

 
History of Present Illness:
Ms. ___ is a ___ G1P0010 who presents as
a transfer from ___ with concern for OHSS. She underwent an egg
retrieval on ___ (26 retrieved) and subsequently started
experiencing worsening nausea and vomiting as well as Tmax of
101.4. She was seen at ___ on ___ for lower abdominal pain and
vomiting. She had normal CBC, BMP and a CT scan as well as 
pelvic
US which showed enlarged ovaries and small to moderate ascites.
She was treated w/ 1L fluids, zofran, compazine, toradol, 
Tylenol
and morphine and discharged home with improvement of symptoms.
She returned to ___ today ___ with worsening symptoms and
inability to tolerate PO. A repeat CT scan revealed increasing
ascites. She was recommended for a transvaginal paracentesis
which was unavailable. She was therefore transferred to ___. 

At ___ she was noted to be tachycardic to the 140s. She was 
given
morphine for pain and Compazine for nausea. She was noted to 
have
labs notable for HCT of 48.3, leukocytosis to 24.3 and Cr of 
1.6.
She received 2L of IVF. 

Upon my evaluation, pt states that she continues to have
abdominal discomfort, rating her pain ___. She states that her
nausea is currently well controlled. She denies any CP or SOB.
Denies any vomiting. Denies any F/C, dysuria, or diarrhea. She
does report that she is quite constipated at baseline, with one
bowel movement every ___ days. She used an enema today with a
bowel movement. 

 
Past Medical History:
OBHx: ___
- SAB x 1

GYNHx:
-Menses: regular, qmonthly 
-No h/o abnormal paps
-No h/o STIs

MedHx: asthma, SVT (previously on atenolol, off since conception
attempt), GERD

SurgHx: HSC PPY 

Medications: PNV, Tylenol/motrin PRN, ranitidine 

Allergies: levaquin 

 
Social History:
___
Family History:
NC
 
Physical Exam:
Discharge physical exam
Vitals: stable and within normal limits
Gen: no acute distress; alert and oriented to person, place, and 
date
CV: regular rate and rhythm; no murmurs, rubs, or gallops
Resp: no acute respiratory distress, clear to auscultation 
bilaterally
Abd: soft, appropriately tender, no rebound/guarding; incision 
clean, dry, intact
Ext: no tenderness to palpation
 
Pertinent Results:
___ 03:10AM BLOOD WBC-22.2* RBC-5.39* Hgb-14.2 Hct-44.2 
MCV-82 MCH-26.3 MCHC-32.1 RDW-15.9* RDWSD-45.1 Plt ___
___ 04:45PM BLOOD WBC-19.8* RBC-5.00 Hgb-13.6 Hct-40.8 
MCV-82 MCH-27.2 MCHC-33.3 RDW-15.5 RDWSD-44.6 Plt ___
___ 07:00AM BLOOD WBC-13.4* RBC-4.53 Hgb-12.4 Hct-37.5 
MCV-83 MCH-27.4 MCHC-33.1 RDW-15.6* RDWSD-46.1 Plt ___
___ 03:00PM BLOOD WBC-14.9* RBC-4.39 Hgb-11.8 Hct-36.3 
MCV-83 MCH-26.9 MCHC-32.5 RDW-15.5 RDWSD-45.8 Plt ___
___ 03:10AM BLOOD Neuts-83.6* Lymphs-9.7* Monos-4.5* 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-18.56* AbsLymp-2.15 
AbsMono-1.00* AbsEos-0.02* AbsBaso-0.07
___ 07:00AM BLOOD Neuts-78.3* Lymphs-13.5* Monos-6.5 
Eos-0.0* Baso-0.4 Im ___ AbsNeut-10.46* AbsLymp-1.80 
AbsMono-0.87* AbsEos-0.00* AbsBaso-0.05
___ 03:00PM BLOOD Neuts-78.7* Lymphs-13.1* Monos-6.7 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-11.71* AbsLymp-1.95 
AbsMono-1.00* AbsEos-0.00* AbsBaso-0.04
___ 03:10AM BLOOD ___ PTT-25.3 ___
___ 03:10AM BLOOD Glucose-126* UreaN-20 Creat-1.1 Na-135 
K-4.3 Cl-103 HCO3-17* AnGap-15
___ 04:45PM BLOOD Glucose-131* UreaN-22* Creat-1.1 Na-138 
K-4.1 Cl-104 HCO3-23 AnGap-11
___ 07:00AM BLOOD Glucose-118* UreaN-18 Creat-0.8 Na-137 
K-4.2 Cl-104 HCO3-25 AnGap-8*
___ 03:00PM BLOOD Glucose-102* UreaN-15 Creat-0.8 Na-136 
K-4.8 Cl-103 HCO3-24 AnGap-9*
___ 03:10AM BLOOD ALT-39 AST-26 AlkPhos-74 TotBili-0.5
___ 04:45PM BLOOD ALT-46* AST-34
___ 07:00AM BLOOD ALT-49* AST-39
___ 03:10AM BLOOD Albumin-3.1* Calcium-7.9* Phos-3.8 Mg-1.7
___ 04:45PM BLOOD Calcium-8.0* Phos-2.8 Mg-2.0
___ 07:00AM BLOOD Calcium-8.0* Phos-2.1* Mg-2.0
___ 03:00PM BLOOD Calcium-8.1* Phos-2.1* Mg-2.0
___ 03:23AM BLOOD Lactate-2.0
___ 06:24PM URINE Color-Yellow Appear-Hazy* Sp ___
___ 06:24PM URINE Blood-NEG Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-10* Bilirub-SM* Urobiln-8* pH-6.0 Leuks-LG*
___ 06:24PM URINE RBC-0 WBC-33* Bacteri-FEW* Yeast-NONE 
Epi-4
___ 06:24PM URINE CastHy-2*
___ 06:24PM URINE Mucous-MANY*
___ 06:24PM URINE UCG-NEGATIVE
___ 04:03PM ASCITES TNC-306* ___ Polys-59* Lymphs-6* 
Monos-33* Mesothe-2*

___ 6:24 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

___ 4:03 pm PERITONEAL FLUID      PERITONEAL LFUID. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary): 

 
Brief Hospital Course:
Ms. ___ was transferred from ___ to the 
___ ___ on ___ for management of moderate ovarian 
hyperstimulation syndrome (OHSS). Pelvic ultrasound on ___ 
demonstrated symmetric bilaterally enlarged ovaries and moderate 
ascites. A chest X-ray was within normal limits without pleural 
effusions noted. Her initial laboratory evaluation was notable 
for leukocytosis to 24.3, hemoconcentration with Hct 48.3, and 
___ with Cr 1.6.  

She was admitted to the gynecology service for further 
management of her OHSS. She was noted to have sinus tachycardia 
from 110s-120s in the ___ and was therefore maintained on 
telemetry upon arrival to the floor. Interventional Radiology 
was consulted, and she underwent ultrasound-guided 
transabdominal paracentesis on ___ with drainage of 2L of 
ascites. Please see ___ procedure report for full details. She 
reported significant improvement in her abdominal symptoms after 
drainage. 

Shortly upon return to the floor after her procedure, she 
triggered for sustained HR in the 130s. Her exam was reassuring 
with otherwise stable vital signs and labs. Her HR rapidly 
normalized after a 500 cc fluid bolus, and her tachycardia was 
attributed to intravascular depletion due to under-resuscitation 
in the setting of prolonged NPO status and third spacing due to 
OHSS. 

Her subsequent hospital course was subsequently uncomplicated. 
Her WBC, Hct, and Cr appropriately downtrended. She had minimal 
pain well controlled with PO Tylenol. Her diet was advanced 
without difficulty. She voided spontaneously; though she denied 
sensation of incomplete emptying, she was noted to have elevated 
PVRs on bladder scanning. Her elevated PVR was attributed to 
measurement artifact in the setting of her ascites, and she was 
maintained on timed voids without difficulty. 

She was then discharged home in stable condition with outpatient 
follow-up scheduled.

 
Medications on Admission:
PNV, Tylenol/motrin PRN, ranitidine 

 
Discharge Medications:
1.  Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain - Mild/Fever 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
2.  Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - First 
Line 
RX *prochlorperazine maleate 5 mg ___ tablet(s) by mouth every 
six (6) hours Disp #*10 Tablet Refills:*0 
3.  Ranitidine 150 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ovarian hyperstimulation syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to the gynecology service with ovarian 
hyperstimulation syndrome.  You underwent a paracentesis 
(drainage of fluid from your abdomen), and your symptoms/labs 
improved.  You have recovered well and the team believes you are 
ready to be discharged home. Please call either our GYN office 
(___) Dr. ___ (REI) office with any questions 
or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Take a stool softener such as colace to prevent constipation.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. 
* Leave the steri-strips in place. They will fall off on their 
own. If they have not fallen off by 7 days post-op, you may 
remove them.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___